US05698546
4-Chloro-2,6-bis(chloromethyl)pyridine
To a stirred solution of 4-chloro-2,6-bis(hydroxymethyl)pyridine (2.41 g, 13.93 mmol) and triethylamine (7.8 ml, 55.72 mmol) at 0° C. in 100 ml of anhydrous dichloromethane and 50 ml of anhydrous chloroform under an argon atmosphere was added methanesulfonyl chloride (3.2 ml, 41.79 mmol). The solution was stirred at 0° C. for 30 minutes, warmed to room temperature and stirred a further 36 hours. The reaction mixture was quenched with water (50 ml), the aqueous phase extracted with dichloromethane, dried (MgSO4) and concentrated in vacuo to afford a red-orange oil. The residual oil was passed through a short plug of silica gel using dichioromethane as eluent thus affording after concentration a pale yellow solid which was identified by 1H NMR as 4-chloro-2,6-bis-(chloromethyl)pyridine (1.9 g, 65%).

reactant | 4-chloro-2,6-bis(hydroxymethyl)pyridine | 13.93 mmol, 2.41 g | ClC1=CC(=NC(=C1)CO)CO | C7H8ClNO2
reactant | triethylamine | 55.72 mmol, 7.8 ml | C(C)N(CC)CC | C6H15N
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | methanesulfonyl chloride | 41.79 mmol, 3.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Chloro-2,6-bis(chloromethyl)pyridine | ClC1=CC(=NC(=C1)CCl)CCl | C7H6Cl3N
